US05439917
2-Chloro-3-cyanomethyl-7-phenacylpyrrolo[2,3-b]pyridine
A solution of 0,66 g (3,4 mmol) 2-chloro-3-cyanomethyl-pyrrolo[2,3-b]pyridine, and 0,65 g (3,8 mmol) phenacyl bromide in 40 ml acetonitrile was refluxed for 20 h. The mixture was allowed to cool and the precipitated product was filtred off and recrystallized from acetonitrile. Chromatography on silica gel eluting with ethyl acetate gave the desired product (0,094g, 9%).

reactant | 2-chloro-3-cyanomethyl-pyrrolo[2,3-b]pyridine | 3,4 mmol, 0,66 g | ClC1=C(C=2C(=NC=CC2)N1)CC#N | C9H6ClN3
reactant | phenacyl bromide | 3,8 mmol, 0,65 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2-Chloro-3-cyanomethyl-7-phenacylpyrrolo[2,3-b]pyridine | 9% | ClC1=C(C=2C(N(C=CC2)CC(=O)C2=CC=CC=C2)=N1)CC#N | C17H12ClN3O
